US07776875B2
Preparation of Intermediate E/Z-6-chloro-3-[5-chloro-2-(1-ethoxycarbonyl-1-propyl-butoxy)-benzylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester
To a solution of E/Z-2-[4-chloro-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenoxy]-2-propyl-pentanoic acid ethyl ester (4.2 g, 8.8 mmol) in dichloromethane (100 mL) at room temperature was added di-tert-butyl-dicarbonate (2.2 g, 9.68 mmol), followed by the addition of 4-dimethylaminopyridine (0.5 g, 4.1 mmol). After the reaction mixture was stirred at room temperature for 1 h, the solution was concentrated. The residue was purified by flash column to give the title compound as a yellow solid (2.6 g).

reactant | Z-2-[4-chloro-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenoxy]-2-propyl-pentanoic acid ethyl ester | 8.8 mmol, 4.2 g | C(C)OC(C(CCC)(CCC)OC1=C(C=C(C=C1)Cl)\C=C\1/C(NC2=CC(=CC=C12)Cl)=O)=O | C25H27Cl2NO4
reactant | di-tert-butyl-dicarbonate | 9.68 mmol, 2.2 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 4.1 mmol, 0.5 g | CN(C1=CC=NC=C1)C | C7H10N2
product | Z-6-chloro-3-[5-chloro-2-(1-ethoxycarbonyl-1-propyl-butoxy)-benzylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | 2.6 g | C(C)(C)(C)OC(=O)N1C(\C(\C2=CC=C(C=C12)Cl)=C/C1=C(C=CC(=C1)Cl)OC(CCC)(CCC)C(=O)OCC)=O | C30H35Cl2NO6
